US03939155
The compounds of this invention defined by the introductory formula when R therein represents methyl can be prepared as follows: 21-(Hydroxymethyl)-5α,17α-pregn-20-ene-3β,17-diol, upon prolonged contact with p-toluenesulfonyl chloride in pyridine, affords spiro[5α-androstane-17,2' (5'H)-furan]-3β-ol, from which, upon consecutive contact in cold tetrahydrofuran under nitrogen with borane and sodium peroxide (formed in situ), 4',5'-dihydrospiro[5α-androstane-17,2'(3'H)-furan] -3β,4'-diol is obtained. The hydroxyls therein are oxidized to oxos with Jones' reagent (prepared by dissolving 10 parts of chromium trioxide in 20 parts of water and consecutively adding to the resultant solution 15 parts of concentrated sulfuric acid and 20 parts of water) in acetone. The 4',5'-dihydrospiro[5α-androstane-17,2'(3'H)-furan]-3,4'-dione thus obtained, upon heating in dioxane under nitrogen with dichlorodicyanobenzoquinone, affords a mixture of 4',5'-dihydrospiro[5α-androst-1-ene-17,2'(3'H)-furan]-3,4'-dione and 4',5'-dihydrospiro[androsta-1,4-diene-17,2'(3'H)-furan]-3,4'-dione, separable by chromatography. The Δ1,4 product, consecutively contacted in tetrahydrofuran with liquid ammonia and lithium, affords 4',5'-dihydrospiro[androst-4-ene-17,2'(3'H)-furan]-3,4'-dione.

reactant | dichlorodicyanobenzoquinone | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
reactant | 4',5'-dihydrospiro[androsta-1,4-diene-17,2'(3'H)-furan]-3,4'-dione | O1C2(CC(C1)=O)[C@]1(C)[C@@H](CC2)[C@@H]2CCC3=CC(C=C[C@]3(C)[C@H]2CC1)=O | C22H28O3
reactant | ammonia | N | H3N
reactant | lithium | [Li] | Li
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4',5'-dihydrospiro[androst-4-ene-17,2'(3'H)-furan]-3,4'-dione | O1C2(CC(C1)=O)[C@]1(C)[C@@H](CC2)[C@@H]2CCC3=CC(CC[C@]3(C)[C@H]2CC1)=O | C22H30O3
